US06469007B2
(R)-4-Cyano-N-{2-[4-(2,3-Dihydro-Benzo[1,4]dioxin-5-yl)-Piperazin-1yl]-Propyl}-N-Pyridin-2-yl-Benzamide
A solution of {(R)-2-[4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperazin-1-yl]-propyl}-pyridin-2-ylamine (0.846 g, 2.38 mmol) in dichloromethane (20 mL) was treated at 0° C. with the dropwise addition of a dichloromethane solution of 4-cyanobenzoyl chloride (1.1 equivalents, 2.63 mmol in 5 mL). After stirring for 16 hours the mixture was poured onto hexane (100 mL) to precipitate the titled compound as its mono-hydrochloride salt (white solid, 1.2 g, 97% yield), which was recrystallized from dichloromethane/hexane.

reactant | {(R)-2-[4-(2,3-dihydrobenzo[1,4]dioxin-5-yl)piperazin-1-yl]-propyl}-pyridin-2-ylamine | 2.38 mmol, 0.846 g | O1CCOC2=C1C=CC=C2N2CCN(CC2)[C@@H](CNC2=NC=CC=C2)C | C20H26N4O2
reactant | 4-cyanobenzoyl chloride | 2.63 mmol, 5 mL, 1.1 equivalents | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-4-Cyano-N-{2-[4-(2,3-Dihydro-Benzo[1,4]dioxin-5-yl)-Piperazin-1yl]-Propyl}-N-Pyridin-2-yl-Benzamide | C(#N)C1=CC=C(C(=O)N(C2=NC=CC=C2)C[C@@H](C)N2CCN(CC2)C2=CC=CC=3OCCOC32)C=C1 | C28H29N5O3
